US09255056B2
In a reactor equipped with a stirrer, a cooling condenser, a dropping funnel and a thermometer were placed triphenylphosphine (314.8 g:1.2 mol), n-propyl bromide (147.6 g:1.2 mol) and N,N-dimethylacetamide (200.0 g), and stirred at a reaction mixture temperature of from 110 to 120° C. for 3 hours. The reaction mixture was then cooled to 10° C. and subjected to addition of tetrahydrofuran (600.0 g), followed by addition of potassium t-butoxide (134.8 g:1.2 mol) at a reaction mixture temperature of from 10 to 15° C. over 20 minutes. The resulting mixture was stirred for one hour. After stirring, the reaction mixture was cooled to 0° C., and 9-chloro-2-nonynal (172.6 g: 1.0 mol) was dropwise added thereto at a reaction mixture temperature of from 0 to 10° C. over one hour. After the dropwise addition, the reaction mixture was stirred for one hour. The reaction was then terminated with water (300 g). The organic phase separated from the aqueous phase was subjected to removal of the solvent under reduced pressure. Triphenylphosphine oxide, which was a by-product precipitated by the removal of the solvent, was filtered out. The filtrate was then distilled under reduced pressure to obtain Z-9-dodecen-7-yn-yl chloride [bp: from 77 to 83° C./0.13 KPa, 172.1 g, 0.87 mol]. [Yield: 86.6%]

reactant | triphenylphosphine | 1.2 mol, 314.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | n-propyl bromide | 1.2 mol, 147.6 g | CCCBr | C3H7Br
reactant | potassium t-butoxide | 1.2 mol, 134.8 g | CC(C)([O-])C.[K+]
reactant | 9-chloro-2-nonynal | 1.0 mol, 172.6 g | ClCCCCCCC#CC=O | C9H13ClO
solvent | tetrahydrofuran | 600.0 g | O1CCCC1 | C4H8O
solvent | N,N-dimethylacetamide | 200.0 g | CN(C(C)=O)C | C4H9NO
product | Z-9-dodecen-7-yn-yl chloride | 0.87 mol, 172.1 g, Yield: 86.6% | C(CCCCCC#C\C=C/CC)Cl | C12H19Cl
